US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-isobutoxy-5-(N-methylpiperidin-4-yloxy)quinazoline
Using an analogous procedure to that described in Example 51, 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline was reacted with isobutanol to give the title compound; NMR Spectrum: (CDCl3) 1.05 (d, 6H), 1.95–2.05 (m, 2H), 2.08–2.28 (m, 3H), 2.3 (s, 3H), 2.3–2.4 (m, 2H), 2.7 (br s, 2H), 3.82 (d, 2H), 4.6 (m, 1H), 6.03 (s, 2H), 6.5 (s, 1H), 6.7 (d, 1H), 6.8 (s, 1H), 6.95 (d, 1H), 8.5 (s, 1H), 9.25 (s, 1H); Mass Spectrum: M+H+ 485 and 487.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)O)OCO2 | C21H21ClN4O4
solvent | isobutanol | C(C(C)C)O | C4H10O
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-isobutoxy-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)OCC(C)C)OCO2 | C25H29ClN4O4
